US06080781
Synthesis of 2-[(4-fluorophenyl)methylene]-6-hydroxy-1-tetralone
After 6-hydroxy-1-tetralone 1.0 g and 4-fluorobenzaldehyde 0.79 ml were added to a mixture of concentrated hydrochloric acid 50 ml and methanol 75 ml, the mixture was refluxed for 1.5 hours and cooled to room temperature, and water 300 mg was added. The precipitated crystals were filtered. The crystals were dried over phosphorous pentoxide for four hours under reduced pressure to obtain the desired compound 0.65 g.

reactant | 6-hydroxy-1-tetralone | 1.0 g | OC=1C=C2CCCC(C2=CC1)=O | C10H10O2
reactant | 4-fluorobenzaldehyde | 0.79 ml | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | hydrochloric acid | 50 ml | Cl | ClH
reactant | methanol | 75 ml | CO | CH4O
solvent | water | 300 mg | O | H2O
product | 2-[(4-fluorophenyl)methylene]-6-hydroxy-1-tetralone | 0.65 g | FC1=CC=C(C=C1)C=C1C(C2=CC=C(C=C2CC1)O)=O | C17H13FO2
